US05777148
Preparation of Methyl 4-Aminomethyl-2,6-dihydroxybenzoate Hydrochloride Methyl 4-Methyl-2,6-diacetoxybenzoate
Methyl 4-methyl-2,6-dihydroxybenzoate (14.0 grams, 76.8 mmoles) was dissolved in anhydrous dichloromethane (250 mL) and acetic anhydride (21 mL, 223 mmoles) and anhydrous pyridine (18 mL, 223 mmoles) were added carefully. The solution was refluxed under dry nitrogen for 30 hours, then cooled to room temperature. The solution was washed twice with 1M aqueous hydrochloric acid (200 mL portions) and then with saturated aqueous sodium chloride (200 mL). The dichloromethane solution was dried over anhydrous magnesium sulfate, filtered, and evaporated to an off-white solid. This crude product was flash chromatographed on silica gel (250 grams) using hexanes:ethyl acetate (70:30 [v/v]) as the eluting solvent. Fractions containing the major product (Rf =0.3) were pooled and evaporated to dryness to afford 19.0 grams (98% yield) of a white solid of methyl 4-methyl-2,6-diacetoxybenzoate (m.p. 70°-71° C., open capillary, uncorrected).

reactant | Methyl 4-methyl-2,6-dihydroxybenzoate | 76.8 mmoles, 14.0 grams | CC1=CC(=C(C(=O)OC)C(=C1)O)O | C9H10O4
reactant | acetic anhydride | 223 mmoles, 21 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 223 mmoles, 18 mL | N1=CC=CC=C1 | C5H5N
reactant | methyl 4-methyl-2,6-diacetoxybenzoate | CC1=CC(=C(C(=O)OC)C(=C1)OC(C)=O)OC(C)=O | C13H14O6
reactant | dichloromethane | 250 mL | ClCCl | CH2Cl2
product | Methyl 4-Aminomethyl-2,6-dihydroxybenzoate Hydrochloride | 19.0 grams, 98% yield | Cl.NCC1=CC(=C(C(=O)OC)C(=C1)O)O | InChI=1S/C9H11NO4.ClH/c1-14-9(13)8-6(11)2-5(4-10)3-7(8)12;/h2-3,11-12H,4,10H2,1H3;1H
